US06469043B1
6-Amino-3-pyridinesulfonyl Chloride
To 123.8 g (1.06 mol) of chlorosulfonic acid was added 10.00 g (0.106 mol) of 2-aminopyridine by portions under ice-cooling. Thionyl chloride (50.56 g, 0.425 mol) was added thereto, followed by heating under reflux for 2.5 hours and further stirring at 150° C. for 7 hours. The reaction solution was poured onto ice water, neutralized by adding sodium bicarbonate thereto and extracted with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate solution, water and brine successively, dried over magnesium sulfate and then concentrated to dryness. The resulting residue was suspended in ethyl ether and the insoluble matters were filtered off. The filtrate was concentrated to dryness and the resulting residue was recrystallized from ethyl ether-hexane to give 6.58 g of the title compound.

reactant | chlorosulfonic acid | 1.06 mol, 123.8 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-aminopyridine | 0.106 mol, 10.00 g | NC1=NC=CC=C1 | C5H6N2
reactant | Thionyl chloride | 0.425 mol, 50.56 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Amino-3-pyridinesulfonyl Chloride | 6.58 g | NC1=CC=C(C=N1)S(=O)(=O)Cl | C5H5ClN2O2S
